### ISSUE TITLE
fun_cases does not unfold functions with dependent type

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#8296]
(This will be an issue on master once #8104 merges.)

The unfolding functional cases principles for a function with a dependent return type will does not work well with the cases tactic. The `cases` tactic generalizes all targets, even those that are simple FVars, and introduces equalities. This means that the complex expression in the motive of the eliminator now has a different type than the function call in the goal that the user wants to rewrite.

For now the code at least tries to fail gracefully and doesn't do the rewriting, but this should work better. Possible fixes:

1. See if `cases` could maybe only generalize non-fvars (but probably there is a good reason it works like it does now.)
2. To mitigate the impact, when generating `fun_cases`, try to be smarter about which function parameters become parameters (because they are fixed anyways) and which become targets. This may remove many practically relevant dependencies.
3. Try harder to make `cases` simply handle this case. (Maybe generalize the complex argument before the targets)

Example form the test suite;

```
axiom dep_induction
  {motive : (n : Nat) → Fin (n+1) → Prop}
  (case1 : motive 0 0) :
  ∀ n, motive n (Fin.last n)

/--
error: tactic 'fail' failed
case case1
P : (n : Nat) → Fin (n + 1) → Prop
⊢ P 0 0
-/
#guard_msgs in
example (P : (n : Nat) → Fin (n+1) → Prop) : P n (Fin.last n) := by
  induction n using dep_induction
  fail


-- Using cases does not unfold as expected, due to the dependent motive.
-- This can be improved, but at least it does not error

/--
error: tactic 'fail' failed
case case1
P : (n : Nat) → Fin (n + 1) → Prop
⊢ P 0 (Fin.last 0)
-/
#guard_msgs in
example (P : (n : Nat) → Fin (n+1) → Prop) : P n (Fin.last n) := by
  cases n using dep_induction
  fail

-- Using cases does not unfold as expected, due to the dependent motive.
-- This can be improved, but at least it does not error

/--
error: tactic 'fail' failed
case case1
P : (n : Nat) → Fin (n + 1) → Prop
⊢ P 0 (Fin.last 0)
-/
#guard_msgs(pass trace, all) in
example (P : (n : Nat) → Fin (n+1) → Prop) : P 10 (Fin.last 10) := by
  cases 10 using dep_induction
  fail
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
> To mitigate the impact, when generating fun_cases, try to be smarter about which function parameters become parameters (because they are fixed anyways) and which become targets. This may remove many practically relevant dependencies.

I gave this a shot, thinking I could generate the fun_cases principle, then look at all the cases, identify which variables are unchanged, and re-generate with them as parameters. But it’s not so easy to do this post-hoc, as this example shows.

```lean

-- This tests shows that its not so easy to post-hoc recognize that `x` could be a parameter, but
-- `y` should be a target of the `fun_cases` principle (or the other way around)
def areTheseTargetsUnchanged (x y : Nat) : Bool :=
  if _ : x = y then
    true
  else
    false

/--
info: areTheseTargetsUnchanged.fun_cases (motive : Nat → Nat → Prop) (case1 : ∀ (y : Nat), motive y y)
  (case2 : ∀ (x y : Nat), ¬x = y → motive x y) (x y : Nat) : motive x y
-/
#guard_msgs in
#check areTheseTargetsUnchanged.fun_cases
```

This needs to brew some more.

**Comment by nomeata** [comment]
> To mitigate the impact, when generating fun_cases, try to be smarter about which function parameters become parameters (because they are fixed anyways) and which become targets. This may remove many practically relevant dependencies.

Second attempt at this, in #8359, seems plausible. Let’s see if that is sufficient in practice.
